US08026257B2
A solution of 7-bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-3-carbonitrile (620 mg, 1.607 mmol), Potassium vinyltrifluoroborate (237 mg, 1.768 mmol), and triethylamine (0.672 mL, 4.82 mmol) in 2-Propanol (50 mL) and Water (25 mL) was degassed with nitrogen for 10 min, then 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (66.1 mg, 0.080 mmol) was added and the reaction was sealed and heated at 90° C. for 2.5 hours. TLC indicated starting material was consumed and one major product plus byproducts were produced. The reaction was evaporated to remove most of the solvent, then the reaction was taken up in brine (10 mL) and extracted with ethyl acetate (3×10 mL). The organic layer was dried with MgSO4 and evaporated. The residue was purified by chromatography on SiO2 with 10% ethyl acetate/hexanes to give product 5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-7-vinyl-1H-indole-3-carbonitrile (389 mg, 1.169 mmol, 72.7% yield) as a yellow oil which crystallized to a yellow solid. 1H-NMR (CDCl3, 400 MHz) δ 7.65 (d, J=2.0 Hz, 1H), 7.60 (s, 1H), 7.42 (dd, J=17.1, 10.8 Hz, 1H), 7.33 (d, 2.0 Hz, 1H), 5.71 (dd, J=17.2, 1.3 Hz, 1H), 5.48 (s, 2H), 5.47 (dd, J=10.8, 1.3 Hz, 1H), 3.51 (app t, J=8.0 Hz, 2H), 0.90 (app t, J=8.0 Hz, 2H), −0.05 (s, 9H). LC/MS (HPLC method 4): tR=4.30 min, 333.13(MH)+.

reactant | 7-bromo-5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-3-carbonitrile | 1.607 mmol, 620 mg | BrC=1C=C(C=C2C(=CN(C12)COCC[Si](C)(C)C)C#N)Cl | C15H18BrClN2OSi
reactant | Potassium vinyltrifluoroborate | 1.768 mmol, 237 mg | C(=C)[B-](F)(F)F.[K+]
reactant | triethylamine | 4.82 mmol, 0.672 mL | C(C)N(CC)CC | C6H15N
solvent | 2-Propanol | 50 mL | CC(C)O | C3H8O
solvent | Water | 25 mL | O | H2O
product | 5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-7-vinyl-1H-indole-3-carbonitrile | 1.169 mmol, 389 mg, 72.7% yield | ClC=1C=C2C(=CN(C2=C(C1)C=C)COCC[Si](C)(C)C)C#N | C17H21ClN2OSi
